US07109219B2
5-(2-(((4-(3-Methylcarbamoylpropyl)piperidin-1-yl)carbonyl)amino)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide
4-(1-((4-(1-Methylcarbamoyl-1H-indol-5-yloxy)pyridin-2-yl)aminocarbonyl)piperidin-4-yl)butyric acid (170 mg, 0.35 mmol) was dissolved in N,N-dimethylformamide (7.0 ml); methylamine hydrochloride (48 mg, 0.71 mmol), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (314 mg, 0.71 mmol) and triethylamine (0.35 ml) were added thereto; and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH silica gel, hexane-ethyl acetate-methanol system). After a small amount of acetone and ethyl acetate were added to the obtained amorphous solid; this solution was diluted with diethyl ether; and the solid portion was filtered off, washed with diethyl ether, and dried under aeration to yield the title compound (30 mg, 0.061 mmol, 17%) as a colorless amorphous solid.

reactant | 4-(1-((4-(1-Methylcarbamoyl-1H-indol-5-yloxy)pyridin-2-yl)aminocarbonyl)piperidin-4-yl)butyric acid | 0.35 mmol, 170 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)CCCC(=O)O | C25H29N5O5
reactant | methylamine hydrochloride | 0.71 mmol, 48 mg | Cl.CN
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.71 mmol, 314 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7.0 ml | CN(C=O)C | C3H7NO
product | 5-(2-(((4-(3-Methylcarbamoylpropyl)piperidin-1-yl)carbonyl)amino)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide | 0.061 mmol, 30 mg, 17% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)CCCC(NC)=O | C26H32N6O4
